US08404679B2
3-Cyclopropyl-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-N-methyl-propionamide
In analogy to the procedure described for the synthesis of example 97, the title compound 3-cyclopropyl-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-N-methyl-propionamide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 3-cyclopropylpropionic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown oil. MS m/e: 534.3 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | 3-cyclopropylpropionic acid | C1(CC1)CCC(=O)O | C6H10O2
product | 3-cyclopropyl-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-N-methyl-propionamide | C1(CC1)CCC(=O)N(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C28H37Cl2N3O3
